US08614220B2
Ethyl 1-(2-hydroxy-ethyl)-8-[5-(4-methyl-piperazin-1-yl)-2-trifluoromethoxy-phenylamino]-4,5-dihydro-1H-pyrazolo[4,3-h]quinazoline-3-carboxylate (A51B5C2Z)
To a solution of 2.66 g (8.34 mmol) of ethyl 6-[(dimethylamino)methylene]-7-oxo-1-(2-hydroxy-ethyl)-4,5,6,7-tetrahydro-1H-indazole-3-carboxylate in 15 mL of DMF, 2.64 g (8.34 mmol) of N-[5-(4-methyl-piperazin-1-yl)-2-trifluoromethoxy-phenyl]-guanidine was added. The mixture was stirred for 4 h at 110° C. After cooling the mixture was poured into water (100 mL) and stirred for 30 minutes. The precipitate was filtered, washed with water and dried to yield 2.86 g of title compound (61%).

reactant | ethyl 6-[(dimethylamino)methylene]-7-oxo-1-(2-hydroxy-ethyl)-4,5,6,7-tetrahydro-1H-indazole-3-carboxylate | 8.34 mmol, 2.66 g | CN(C)C=C1CCC=2C(=NN(C2C1=O)CCO)C(=O)OCC | C15H21N3O4
reactant | N-[5-(4-methyl-piperazin-1-yl)-2-trifluoromethoxy-phenyl]-guanidine | 8.34 mmol, 2.64 g | CN1CCN(CC1)C=1C=CC(=C(C1)NC(=N)N)OC(F)(F)F | C13H18F3N5O
reactant | water | 100 mL | O | H2O
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | Ethyl 1-(2-hydroxy-ethyl)-8-[5-(4-methyl-piperazin-1-yl)-2-trifluoromethoxy-phenylamino]-4,5-dihydro-1H-pyrazolo[4,3-h]quinazoline-3-carboxylate | 2.86 g, 61% | OCCN1N=C(C=2CCC=3C=NC(=NC3C21)NC2=C(C=CC(=C2)N2CCN(CC2)C)OC(F)(F)F)C(=O)OCC | C26H30F3N7O4
